US04241052
3.6 g of D-galactose, 5.7 g of (3-morpholinopropyl)amine and 3.0 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 23-(1). 3.5 g of 1-(2-chloroethyl)-3-(3-morpholinopropyl)-3-(D-galactopyranosyl)urea are thereby obtained as colorless caramel.

reactant | D-galactose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | (3-morpholinopropyl)amine | 5.7 g | O1CCN(CC1)CCCN | C7H16N2O
reactant | 2-chloroethyl isocyanate | 3.0 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-(3-morpholinopropyl)-3-(D-galactopyranosyl)urea | 3.5 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CCCN1CCOCC1 | C16H30ClN3O7
